US05912270
d) 2-[2-[3-[3,5-Bis(trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1-dimethylpropyl)benzenesulfonic acid, ammonium salt
2-(2-Amino-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzenesulfonic acid (260 mg, 0.0006 mol) and 3,5- bis(trifluoromethyl)phenyl isocyanate (130.9 ml, 0.0005 mol) were mixed in pyridine (5 ml), under argon, for sixteen hours at room temperature. The solvent was evaporated and the residue flash chromatographed (silica gel, methylene chloride/isopropanol/ammonium hydroxide), dried and evaporated to give the title compound. 1H NMR (250 MHz, DMSO) ∂ 9.20 (s, 1H), 8.90 (s, 1H), 7.90 (s, 1H), 7.50 (s, 2H), 7.25 (d, 1H), 7.05 (s, 1H), 6.80-6.30 (m, 4H), 1.0 (q, 3H),.0.065 (s, 6H), .0.045 (d, 2H).

reactant | 2-(2-Amino-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzenesulfonic acid | 0.0006 mol, 260 mg | NC1=C(OC2=C(C=C(C=C2)C(CC)(C)C)S(=O)(=O)O)C=CC=C1C(F)(F)F | C18H20F3NO4S
reactant | 3,5- bis(trifluoromethyl)phenyl isocyanate | 0.0005 mol, 130.9 ml | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-[3-[3,5-Bis(trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1-dimethylpropyl)benzenesulfonic acid, ammonium salt | [NH4+].FC(C=1C=C(C=C(C1)C(F)(F)F)NC(NC1=C(OC2=C(C=C(C=C2)C(CC)(C)C)S(=O)(=O)[O-])C=CC(=C1)C(F)(F)F)=O)(F)F | InChI=1S/C27H23F9N2O5S.H3N/c1-4-24(2,3)14-5-8-21(22(13-14)44(40,41)42)43-20-7-6-15(25(28,29)30)12-19(20)38-23(39)37-18-10-16(26(31,32)33)9-17(11-18)27(34,35)36;/h5-13H,4H2,1-3H3,(H2,37,38,39)(H,40,41,42);1H3
